US04782055
To a mixture of 2-amino-3-hydroxypyridine (7.64 g) and Adogen 464 (Trademark: prepared by Aldrich Chemical Co.) (0.42 g) in 40% aqueous sodium hydroxide (35 ml) and methylene chloride (35 ml) was added 2-methoxybenzyl chloride (10.87 g) at ambient temperature. After being stirred for 22 hours, the organic layer was separated and the aqueous layer was extracted with methylene chloride. The combined extracts were washed with saturated sodium chloride aqueous solution, dried over magnesium sulfate, and evaporated in vacuo. The crystalline residue was recrystallized from ethyl acetate to give 2-amino-3-(2-methoxybenzyloxy)pyridine (6.09 g).

reactant | 2-amino-3-hydroxypyridine | 7.64 g | NC1=NC=CC=C1O | C5H6N2O
reactant | 2-methoxybenzyl chloride | 10.87 g | COC1=C(CCl)C=CC=C1 | C8H9ClO
catalyst | Adogen 464 | 0.42 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | sodium hydroxide | 35 ml | [OH-].[Na+]
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
product | 2-amino-3-(2-methoxybenzyloxy)pyridine | 6.09 g | NC1=NC=CC=C1OCC1=C(C=CC=C1)OC | C13H14N2O2
